US06440636B1
By using ethyl crotonate instead of ethyl acrylate, 2 hydroxy-3,4,4-trimethyl-γ-butyrolactone was prepared in a yield of 15% in the same manner as in Production Example 10. The prepared 2-hydroxy-3,4,4-trimethyl-γ-butyrolactone was subjected to a reaction (dehydration reaction) with equivalent P2O5 at room temperature to yield a corresponding α,β-unsaturated-γ-butyrolactone in a yield of 34%. This compound was then allowed to react with m-chloroperbenzoic acid (MCPBA) in methylene chloride at room temperature to yield 2,3epoxy-3,4,4-trimethyl-γ-butyrolactone in a yield of 75%. Hydrogen was bubbled in a mixture of 10 mmole of the above-prepared 2,3-epoxy-3,4,4-trimethyl-γ-butyrolactone, 1 g of a 5% by weight Pd-C, and 20 ml of tetrahydrofuran at room temperature for 11 hours. The reaction mixture was filtrated and was concentrated, and the concentrate was subjected to column chromatography on a silica gel to yield 3-hydroxy-3,4,4-trimethyl-γ-butyrolactone in a yield of 82%.

reactant | Hydrogen | [H][H] | H2
reactant | 2,3-epoxy-3,4,4-trimethyl-γ-butyrolactone | 10 mmole | O1C2C(=O)OC(C21C)(C)C | C7H10O3
catalyst | Pd-C | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-3,4,4-trimethyl-γ-butyrolactone | yield of 82% | OC1(CC(=O)OC1(C)C)C | C7H12O3
